US04107307
8 Methyl-6-m-tolyl-imidazo[1,5-d]-as-triazine-4(3H)-one.
A mixture of 3-[(5-methyl-2-m-tolyl-4-imidazolyl)-methylene]carbazic acid, methyl ester (5.1 g, 0.019 mole) and o-dichlorobezene (75 ml) is heated slowly (45 minutes) to reflux, refluxed for 1.5 hours, then stirred at room temperature over night (appr. 15-16 hours). The reaction mixture is filtered to afford 3.9 g (0.016 mole) title product. Recrystallization from o-dichlorobenzene yields partially solvated product, m.p. 188°-198° C.

reactant | 3-[(5-methyl-2-m-tolyl-4-imidazolyl)-methylene]carbazic acid, methyl ester | 0.019 mole, 5.1 g | CC1=C(N=C(N1)C=1C=C(C=CC1)C)C=NNC(=O)OC | C14H16N4O2
reactant | o-dichlorobezene | 75 ml | ClC1=C(C=CC=C1)Cl | C6H4Cl2
product | Methyl-6-m-tolyl-imidazo[1,5-d]-as-triazine-4(3H)-one | 0.016 mole, 3.9 g | CC=1C=2N(C(NN1)=O)C(=NC2)C=2C=C(C=CC2)C | C13H12N4O
